US04642308
The procedure is similar to that described in Example 1, but starting with 4-methoxybenzoic acid (14.3 g), N,N'-carbonyldiimidazole (15.2 g) and 2-amino-7-(4-fluorophenoxy)-1,8-naphthyridine (15.2 g). The product produced by precipitation in water (22.6 g; m.p. approximately 70° C.) is dissolved in boiling ethanol (130 cc). After 3 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with ethanol (2×15 cc) and dried at 25° C. under reduced pressure (0.067 kPa). N-[7-(4-fluorophenoxy)-1,8-naphthyridin-2-yl]-4-methoxybenzamide (17 g) is produced, m.p. 100° C.

reactant | 4-methoxybenzoic acid | 14.3 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 2-amino-7-(4-fluorophenoxy)-1,8-naphthyridine | 15.2 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC=C(C=C1)F | C14H10FN3O
reactant | ethanol | 130 cc | C(C)O | C2H6O
solvent | water | 22.6 g | O | H2O
product | N-[7-(4-fluorophenoxy)-1,8-naphthyridin-2-yl]-4-methoxybenzamide | 17 g | FC1=CC=C(OC2=CC=C3C=CC(=NC3=N2)NC(C2=CC=C(C=C2)OC)=O)C=C1 | C22H16FN3O3
